US06403610B1
0.83 cm3 of 5N aqueous sodium hydroxide solution was introduced with stirring, at a temperature in the region of 20° C., into a solution of 0.525 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-acetate in 5 cm3 of dioxane and then the mixture was heated for 3 hours at a temperature in the region of 60° C. After cooling to approximately 20° C., the mixture was stirred for 3 days and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was taken up in 15 cm3 of water and then the solution was extracted with 5 cm3 of ethyl acetate. The aqueous phase was brought to a pH in the region of 5-6 by addition of 4.1 cm3 of 1N aqueous hydrochloric acid and then extracted, first with 30 cm3 of dichloromethane and then with 10 cm3 of the same solvent. The organic extracts were combined, washed with 2 times 5 cm3 of water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was taken up in diethyl ether and then concentrated under the same conditions as above until a constant weight was obtained. 0.45 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-acetic acid was obtained in the form of a solid with a light beige color.

reactant | sodium hydroxide | 5N, 0.83 cm3 | [OH-].[Na+]
reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-acetate | 0.525 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#CC1=CC(=CC(=C1)F)F)CC(=O)OC | C30H32F2N2O3
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 15 cm3 | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-acetic acid | 0.45 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#CC1=CC(=CC(=C1)F)F)CC(=O)O | C29H30F2N2O3
